US04536578
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(2-hydroxyethyl)piperazine dihydrochloride
To 50 ml of dimethylformamide was added 2.6 g of 4-(2-hydroxyethyl)piperazine, 6.4 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 10.0 g of milled potassium carbonate, and 0.01 g of potassium iodide. The mixture was stirred at 90° C. for five hrs, cooled, filtered, and evaporated to an oil. The oil was stirred with 100 ml water for ten mins, and extracted with ether. The ether extract was washed with water (2×), saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After filtering, ethereal hydrogen chloride was added, and the precipitate was collected and dried to give 4.3 g (57%) of product. Two recrystallizations from ethyl acetate/methanol, gave the analytical sample, mp 228° C. (dec).

reactant | 4-(2-hydroxyethyl)piperazine | 2.6 g | OCCN1CCNCC1 | C6H14N2O
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 6.4 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.01 g | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(2-hydroxyethyl)piperazine dihydrochloride | 4.3 g, 57% | Cl.Cl.FC1=CC2=C(C(=NO2)CCCN2CCN(CC2)CCO)C=C1 | InChI=1S/C16H22FN3O2.2ClH/c17-13-3-4-14-15(18-22-16(14)12-13)2-1-5-19-6-8-20(9-7-19)10-11-21;;/h3-4,12,21H,1-2,5-11H2;2*1H
